US07557221B2
{[4-({Bis-[2-(tert-butyl-dimethyl-silanyloxy)-ethyl]-carbamoyl}-methoxy)-phenyl]-[1-(6-iodo-1H-benzoimidazol-2-yl)-2-phenyl-propylcarbamoyl]-methyl}-carbamic acid tert-butyl ester (270 mg, 0.27 mmol) was dissolved in dry dichloromethane (6 mL) and cooled in an ice bath. To the stirred solution was added triflouroacetic acid (3.12 mL, 40.5 mmol). The reaction mixture was stirred at 0° C. for 1 hour. The reaction mixture was concentrated in vacuo, dissolved in dichloromethane (1 mL) and the crude trifluoroacetate salt precipitated with ether (5 mL) and pentane (10 mL). The precipitate was triturated then filtered. The solid was taken into dichloromethane (50 mL) and tetrahydrofuran added to form a clear solution. The solution was washed with saturated aqueous sodium hydrogen carbonate (2×50 mL), the layers separated and the aqueous layer extracted with dichloromethane (4×50 mL). The combined organic extracts were dried over sodium sulfate filtered and concentrated in vacuo. The resulting solid was triturated with a mixture of ether (1 mL) and pentane (5 mL), filtered and dried to give (R)-2-amino-2-(4-{[bis-(2-hydroxy-ethyl)-carbamoyl]-methoxy}-phenyl)-N-[(1S,2S)-1-(6-iodo-1H-benzoimidazol-2-yl)-2-phenyl-propyl]-acetamide (170 mg, 93.8%).

reactant | {[4-({Bis-[2-(tert-butyl-dimethyl-silanyloxy)-ethyl]-carbamoyl}-methoxy)-phenyl]-[1-(6-iodo-1H-benzoimidazol-2-yl)-2-phenyl-propylcarbamoyl]-methyl}-carbamic acid tert-butyl ester | 0.27 mmol, 270 mg | C(C)(C)(C)OC(NC(C(NC(C(C)C1=CC=CC=C1)C1=NC2=C(N1)C=C(C=C2)I)=O)C2=CC=C(C=C2)OCC(N(CCO[Si](C(C)(C)C)(C)C)CCO[Si](C)(C)C(C)(C)C)=O)=O | C47H70IN5O7Si2
reactant | triflouroacetic acid | 40.5 mmol, 3.12 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 6 mL | ClCCl | CH2Cl2
product | (R)-2-amino-2-(4-{[bis-(2-hydroxy-ethyl)-carbamoyl]-methoxy}-phenyl)-N-[(1S,2S)-1-(6-iodo-1H-benzoimidazol-2-yl)-2-phenyl-propyl]-acetamide | 170 mg, 93.8% | N[C@@H](C(=O)N[C@@H]([C@@H](C)C1=CC=CC=C1)C1=NC2=C(N1)C=C(C=C2)I)C2=CC=C(C=C2)OCC(N(CCO)CCO)=O | C30H34IN5O5
